US05122523
226 mg of 3-isopropylthiopropionic acid was dissolved in 1.5 ml of dry dichloromethane. 0.22 ml (1.0 eq) of triethylamine was added thereto, and then the mixture was cooled with ice. 0.19 ml of pivaloyl chloride was added thereto under stirring to obtain a gelled reaction solution. The reaction solution was stirred at 10° C. for 10 minutes and then cooled with ice. A dichloromethane solution of lithium amide prepared from 270 mg of (4R,5S)-4-methyl-5-phenyl-2-oxazolidinone and 0.96 ml of 1.5M n-butyl lithium was prepared, and the solution was added to the previous reaction solution under cooling with ice. The mixture was stirred at room temperature overnight, and then the reaction solution was diluted with 20 ml of chloroform. After washing with 15 ml of a 4% sodium hydrogencarbonate aqueous solution, the chloroform solution was dried over anhydrous magnesium sulfate. The chloroform solution was concentrated under reduced pressure, and then purified by silica gel column chromatography (n-hexane/ethyl acetate=6/1) to obtain 240 mg of (4R,5S)-3-(3-isopropylthiopropionyl)-4-methyl-5-phenyl-2-oxazolidinone as colorless transparent syrup (yield: 51%).

reactant | 3-isopropylthiopropionic acid | 226 mg | C(C)(C)CCC(=S)O | C6H12OS
reactant | triethylamine | 0.22 ml, 1.0 eq | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 0.19 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | lithium amide | [NH2-].[Li+]
reactant | (4R,5S)-4-methyl-5-phenyl-2-oxazolidinone | 270 mg | C[C@H]1NC(O[C@H]1C1=CC=CC=C1)=O | C10H11NO2
reactant | n-butyl lithium | 1.5M, 0.96 ml | C(CCC)[Li]
solvent | dichloromethane | 1.5 ml | ClCCl | CH2Cl2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | (4R,5S)-3-(3-isopropylthiopropionyl)-4-methyl-5-phenyl-2-oxazolidinone | 240 mg, yield: 51% | C(C)(C)CCC(=S)N1C(O[C@H]([C@H]1C)C1=CC=CC=C1)=O | C16H21NO2S
